US09169254B2
2,2,3,3-Tetrafluoro-1,4-benzodioxane (484 mg), bis(pinacolato)diboron (295 mg), [Ir(COD)(OMe)]2 (15.4 mg) and 4,4′di-tert-butyl-2,2′-dipyridyl (12.5 mg) were mixed. 1,4-Dioxane (0.5 mL) was added in a nitrogen atmosphere and stirred at 100° C. for two hours. MeOH (0.5 mL) was added to the reaction solution, and metaperiodic acid (1.06 g) was added in four portions under ice-cooling. Water was added to the reaction solution, followed by extraction with ethyl acetate and concentration. The resulting mixture was purified by silica gel column chromatography to give 2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-6-yl-boronic acid (230 mg, 39%).

reactant | 2,2,3,3-Tetrafluoro-1,4-benzodioxane | 484 mg | FC1(C(OC2=C(O1)C=CC=C2)(F)F)F | C8H4F4O2
reactant | bis(pinacolato)diboron | 295 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1,4-Dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
reactant | metaperiodic acid | 1.06 g | I(=O)(=O)(=O)O | HIO4
solvent | Water | O | H2O
solvent | MeOH | 0.5 mL | CO | CH4O
product | 2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-6-yl-boronic acid | 230 mg, 39% | FC1(C(OC2=C(O1)C=CC(=C2)B(O)O)(F)F)F | C8H5BF4O4
